US03976681
A solution of methyl (2,3-dimethylphenoxy)acetate (3.0 g., 0.0155 mole) and 2-ethylmalonyl chloride (2.7 g., 0.016 mole) in methylene chloride (200 ml.) is cooled to 0°C. then treated with aluminum chloride (6.6 g., 0.05 mole) in several portions during a 15 minute period. The reaction is stirred for 2 hours at 0°C., 18 hours at 25°C. then at reflux for six hours, cooled and poured into cold 1 N-hydrochloric acid (500 ml.), the organic layer is washed with water, saturated aqueous sodium chloride, dried over magnesium sulfate, then the solvent evaporated at reduced pressure. The crude methyl ester is hydrolyzed by treatment with potassium hydroxide (0.34 g., 0.005 mole) and methanol (20 ml.) at reflux for 1/2 hour, cooled and acidified with aqueous hydrochloric acid affording (1,3-dioxo-2-ethyl-4,5-dimethyl-6-indanyloxy)acetic acid which melts at 187°-193°C. after recrystallization from acetic acid-water.

reactant | methyl (2,3-dimethylphenoxy)acetate | 0.0155 mole, 3.0 g | CC1=C(OCC(=O)OC)C=CC=C1C | C11H14O3
reactant | 2-ethylmalonyl chloride | 0.016 mole, 2.7 g | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | aluminum chloride | 0.05 mole, 6.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 500 ml | Cl | ClH
reactant | potassium hydroxide | 0.005 mole, 0.34 g | [OH-].[K+]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
product | (1,3-dioxo-2-ethyl-4,5-dimethyl-6-indanyloxy)acetic acid | O=C1C(C(C2=C(C(=C(C=C12)OCC(=O)O)C)C)=O)CC | C15H16O5
